US04424351
3.8 g (0.015 moles) of 3-phenyl-1,4-dihydropyrido[3,4-e]-as-triazine hydrochloride are reacted with m-nitrobenzoyl chloride as described in Example 3 to obtain 1-(m-nitrobenzoyl)-3-phenyl-1,4-dihydropyrido[3,4-e]-as-triazine hydrochloride with a yield of 78.6%; m.p.: 206°-207° C.

reactant | 3-phenyl-1,4-dihydropyrido[3,4-e]-as-triazine hydrochloride | 0.015 moles, 3.8 g | Cl.C1(=CC=CC=C1)C1=NNC2=C(N1)C=NC=C2
reactant | m-nitrobenzoyl chloride | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=CC1 | C7H4ClNO3
product | 1-(m-nitrobenzoyl)-3-phenyl-1,4-dihydropyrido[3,4-e]-as-triazine hydrochloride | yield of 78.6% | Cl.[N+](=O)([O-])C=1C=C(C(=O)N2N=C(NC3=C2C=CN=C3)C3=CC=CC=C3)C=CC1 | InChI=1S/C19H13N5O3.ClH/c25-19(14-7-4-8-15(11-14)24(26)27)23-17-9-10-20-12-16(17)21-18(22-23)13-5-2-1-3-6-13;/h1-12H,(H,21,22);1H
